US06096782
Synthesis of N-(3,4-dichlorophenyl)-D,L-alanine
Alternatively, following General Procedure A above and using 3,4-dichloroaniline (Aldrich) and ethyl pyruvate (Aldrich), N-(3,4-dichlorophenyl)-D,L-alanine ethyl ester was prepared as an oil. The reaction was monitored by tlc on silica gel (Rf=0.4 in 25% EtOAc/Hexanes) and purification was by preparative plate chromatography (silica gel using 25% EtOAc/Hexanes as eluent).

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
reactant | N-(3,4-dichlorophenyl)-D,L-alanine ethyl ester | C(C)OC(C(NC1=CC(=C(C=C1)Cl)Cl)C)=O | C11H13Cl2NO2
product | N-(3,4-dichlorophenyl)-D,L-alanine | ClC=1C=C(C=CC1Cl)NC(C)C(=O)O | C9H9Cl2NO2
